Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])#[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],1.14072351933
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1],3.95458753212
[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-2.71455351265
[C:10][H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-10.5607601546
[H:10].[O:1]=[C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.8739785717
[C:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.54528808625
[C:13]([H:14])[H:15].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.325712887219999
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][C:2][O:12][C:9]([C:4](=[O:3])[C:5]([H:6])([H:7])[H:8])([H:10])[H:11],0.315660365621
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9],1.71291315314
[H:1][O:2][C:3][O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-5.07506120815
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12],1.52577348982
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[O:13][H:14],4.17051651257
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.96962578098
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[O:7][C:8]1=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],1.67543515887
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-4.658258496959999
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-6.28303654623
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4]=[C:5]=[O:6],3.4856976087
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.042294438469998
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],1.10743014212
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],7.29774218358
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.83871353357
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.7950844492200002
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.20058899108
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])=[C:11][H:12].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-4.35161345865
[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.80902147742
[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:5].[O:1]=[C:2]([C:3]#[C:4])[O:6][C:7]([H:8])([H:9])[H:10],5.98549679862
[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.00419280263
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4][O:7][C:8]([H:9])([H:10])[H:11].[O:5][H:6],5.29876408995
